US05929085
(b) 7-Nitro-1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinoline hydrochloride
To a solution of 1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinoline (4.12 g, 23.8 mmol) in concentrated sulfuric acid (100 ml) at -10° C. was added, in portions over 1 h, potassium nitrate (2.40 g, 23.7 mmol). After addition was complete, the reaction mixture was stirred for 1 h before it was poured over ice. The aqueous solution was made basic with concentrated ammonium hydroxide and the product was extracted into dichloromethane (twice). The dried (magnesium sulfate) organic phase was concentrated to give a red oil that solidified on standing. This solid was taken up in isopropanol (100 ml) and hydrogen chloride in ethanol was added until acidic. The solid was collected, washed with isopropanol and dried to give the crude product (3.39 g, 56%). This solid was recrystallized from ethanol to give the title compound (2.16 g, 36%) as an off-white solid, m.p. 231-3° C. (dec.).

reactant | 1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinoline | 23.8 mmol, 4.12 g | C1CCN2CC=3C=CC=CC3CC21 | C12H15N
reactant | potassium nitrate | 23.7 mmol, 2.40 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrogen chloride | Cl | ClH
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | 7-Nitro-1,2,3,5,10,10a-hexahydropyrrolo[1,2-b]isoquinoline hydrochloride | 2.16 g, 36% | Cl.[N+](=O)([O-])C=1C=CC=2CC3N(CC2C1)CCC3 | InChI=1S/C12H14N2O2.ClH/c15-14(16)12-4-3-9-6-11-2-1-5-13(11)8-10(9)7-12;/h3-4,7,11H,1-2,5-6,8H2;1H
